US03998859
A mixture of 100 g cholic acid, 300 ml of methanol and 10 ml concentrated hydrochloric acid was refluxed on steam for 20 minutes. The resulting brown solution was refrigerated to induce crystallization. The crystals were collected, washed with 50 ml cold methanol, and dried to give 103 g methyl cholate, m.p. 153-154° C.

reactant | cholic acid | 100 g | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C24H40O5
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | methanol | 300 ml | CO | CH4O
product | methyl cholate | 103 g | C[C@H](CCC(=O)OC)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C25H42O5
